US06887885B2
1-(3-Bromo-4-fluorophenyl)-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one was coupled to 3-pyridylboronic acid, in the same way as in Example 1, to give 1-[4-fluoro-3-(pyridin-3-yl)phenyl]-5-methyl-1,5-dihydro-imidazo[4,5-c]pyridin-4-one as an off-white solid (50 mg, 32%): δH (400 MHz, CDCl3) 3.69 (3H, s), 6.38 (1H, d, J 7), 7.22 (1H, d, J 7), 7.40-7.49 (3H, m), 7.54 (1H, dd, J 7 and 3), 7.90-7.94 (2H, m), 8.70 (1H, dd, J 5 and 2), 8.84 (1H, s); m/z (ES+) 321 [MH+].

reactant | 1-(3-Bromo-4-fluorophenyl)-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one | BrC=1C=C(C=CC1F)N1C=NC=2C(N(C=CC21)C)=O | C13H9BrFN3O
reactant | 3-pyridylboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 1-[4-fluoro-3-(pyridin-3-yl)phenyl]-5-methyl-1,5-dihydro-imidazo[4,5-c]pyridin-4-one | 50 mg, 32% | FC1=C(C=C(C=C1)N1C=NC=2C(N(C=CC21)C)=O)C=2C=NC=CC2 | C18H13FN4O
